Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
LLE erythema, swelling, pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old gentleman with history significant
for hypertension and stage IB melanoma s/p R toe amputation who
presented with left lower extremity erythema, swelling, and pain
in the setting of a mechanical fall 8 days ago (tripped on a rug
and fell forward striking his nose and left knee). He noticed
immediate L calf tenderness/pain at that time, which eventually
resolved. He then noticed redness as well as significant pain on
his anterior shin about 4 days ago that was progressively
worsening. He was seen in his primary care clinic on ___ for
evaluation of his LLE, at which time LLE Duplex was performed
which showed no evidence of DVT, but with evidence of
intramuscular hematoma. He then saw his PCP ___ ___ who
recommended treatment in the ED for LLE cellulitis with IV
antibiotics.

 
Past Medical History:
-Hypertension
-Stage IB melanoma s/p R great toe amputation
-Gout
 
Social History:
___
Family History:
No family history of blood clots/bleeding disorders. No other
significant family history
 
Physical Exam:
ADMISSION EXAM:
VITALS: Temp 98.4 PO, BP 136/78, HR 74, RR 18, ___ 95 Ra
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended
Ext: significant erythema on anterior LLE, receding several
centimeters from line of demarcation from the ED. 2+ pitting
edema to ankles bilaterally, which patient reports is chronic 
and
at his baseline.
Skin: Warm, dry, no rashes appreciated other than as noted above
on ant LLE
Neuro: strength grossly intact

DISCHARGE EXAM:
VITALS: 24 HR Data (last updated ___ @ 807)
    Temp: 97.8 (Tm 98.4), BP: 131/80 (130-136/68-80), HR: 71
(71-77), RR: 20 (___), O2 sat: 95% (94-95), O2 delivery: Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, EOMI, PERRL
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended
Ext: Mild tenderness with moderate erythema on anterior LLE, no
drainage. Borders 4-5cm from previous demarcation. No 
fluctuance.
+1 pitting edema to ankles bilaterally, R leg without erythema 
or
swelling. No lesions/erythema on feet or between toes.
MSK: L knee and ankle without swelling or erythema. Full ROM
without pain. 
Skin: Warm, dry, no rashes appreciated other than as noted above
on ant RLE
Neuro: strength grossly intact
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:18AM   LACTATE-0.9
___ 09:42PM   GLUCOSE-93 UREA N-13 CREAT-1.0 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-23 ANION GAP-12
___ 09:42PM   estGFR-Using this
___ 09:42PM   WBC-7.5 RBC-3.79* HGB-13.0* HCT-38.5* 
MCV-102* MCH-34.3* MCHC-33.8 RDW-14.0 RDWSD-51.1*
___ 09:42PM   NEUTS-69.0 LYMPHS-18.2* MONOS-10.1 EOS-1.9 
BASOS-0.3 IM ___ AbsNeut-5.19 AbsLymp-1.37 AbsMono-0.76 
AbsEos-0.14 AbsBaso-0.02
___ 09:42PM   PLT COUNT-229

DISCHARGE LABS:
===============
___ 06:10AM BLOOD WBC-6.3 RBC-3.45* Hgb-11.6* Hct-35.1* 
MCV-102* MCH-33.6* MCHC-33.0 RDW-13.6 RDWSD-50.4* Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-98 UreaN-11 Creat-1.1 Na-141 
K-4.1 Cl-106 HCO3-25 AnGap-10

MICRO:
======
Blood culture ___
No growth x48 hours; will follow-up final result and notify 
patient/PCP if positive

IMAGING:
========
___ CT HEAD
IMPRESSION:
 
 
1. No evidence of acute intracranial abnormality on noncontrast 
CT head. 
Specifically no acute large territory infarct or intracranial 
hemorrhage.
2. No acute displaced calvarial fracture.
3. Age-related parenchymal atrophy.  Probable chronic small 
vessel ischemic
disease.
4. Paranasal sinus disease.

___ CT C-SPINE
IMPRESSION:
 
 
1. No evidence of traumatic malalignment, acute fracture or 
prevertebral
edema.
2. Moderate multilevel degenerative changes as described above.
 
Brief Hospital Course:
SUMMARY ASSESSMENT 
===================== 
___ year old gentleman with history significant for hypertension, 
chronic venous stasis, and stage IB melanoma s/p R great toe 
amputation who presented with left lower extremity erythema and 
pain after a mechanical fall and trauma to the area found to 
have non-purulent cellulitis who improved with IV antibiotics 
that were switched to PO TMP/SMX at discharge

TRANSITIONAL ISSUES:
=====================
None

ACUTE/ACTIVE PROBLEMS: 
====================== 
# LLE Cellulitis
Patient presented with LLE pain, erythema, and swelling. Prior
LLE Duplex without evidence of DVT on ___. He was started on IV 
vanc/ceftriaxone in the ED but was switched to PO Bactrim DS 1 
tab twice daily after 24h. He continued to improve on Bactrim, 
and he was discharged on PO bactrim given improving exam for a 
planned 7 day course (end date: ___

# S/p Mechanical Fall
Tripped on rug, no dizziness, palpitations, loss of 
consciousness to suggest syncope. CT head/neck in ED negative 
for fracture/bleed.

CHRONIC/STABLE PROBLEMS:  
========================
# HTN
Continued home lisinopril and amlodipine.

# H/o gout
No home medicines; not an active issue during this brief 
hospitalization.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Budesonide Nasal Inhaler  (*NF*) 1 dose Other DAILY 
6. Indomethacin 50 mg PO TID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*11 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Budesonide Nasal Inhaler  (*NF*) 1 dose Other DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Indomethacin 50 mg PO TID:PRN Pain - Moderate  
7.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Cellulitis, non-purulent

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You had a skin infection that involved a large area of your 
leg  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You received broad-spectrum antibiotics in the Emergency 
Department
- You were switched to antibiotics in pill form as your leg 
pain/swelling continued to improve

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take all of your medications as directed
- Please follow up with all the appointments scheduled with your 
doctor
- if you note worsening redness, swelling, pain, or 
fevers/chills/nausea/fatigue, please call your primary care 
doctor or go to the ED right away

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  

 
Followup Instructions:
___